US06384065B1
In 7 ml of methylene chloride was dissolved 0.35 g of tert-butyl (3R)-4-benzoyl-8-[(4-isopropylanilino)-carbonyl]-1-thia-4-azaspiro[4.5]-decane-3-carboxylate. After adding 1.8 ml of trifluoroacetic acid at 0-5° C., the resulting mixture was stirred at ambient temperature for 6 hours. After distilling off the solvent under reduced pressure, the residue was several times subjected to an azeotropic distillation treatment together with toluene and then purified by column chromatography [eluent: chloroform:ethanol=20:1]. The residue was treated with ethyl ether, and the deposited crystal was collected by filtration to obtain 0.12 g of (3R)-4-benzoyl-8-[(4-isopropylanilino)carbonyl]-1-thia-4-azaspiro[4.5]decane-3-carboxylic acid as a colorless crystalline product.

reactant | tert-butyl (3R)-4-benzoyl-8-[(4-isopropylanilino)-carbonyl]-1-thia-4-azaspiro[4.5]-decane-3-carboxylate | 0.35 g | C(C1=CC=CC=C1)(=O)N1[C@@H](CSC12CCC(CC2)C(=O)NC2=CC=C(C=C2)C(C)C)C(=O)OC(C)(C)C | C30H38N2O4S
reactant | trifluoroacetic acid | 1.8 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
product | (3R)-4-benzoyl-8-[(4-isopropylanilino)carbonyl]-1-thia-4-azaspiro[4.5]decane-3-carboxylic acid | 0.12 g | C(C1=CC=CC=C1)(=O)N1[C@@H](CSC12CCC(CC2)C(=O)NC2=CC=C(C=C2)C(C)C)C(=O)O | C26H30N2O4S
